US06696574B2
cis-3,4-Dihydroxy-2,5-pyrrolidinedione (VIIb)
A solution of N-benzylmaleimide (50.0 kg), in 125 L of acetonitrile and 859 L of ethyl acetate was combined with an aqueous mixture of 0.499 kg of ruthenium (III) chloride hydrate in 352 L of water, and the resulting reaction mixture was cooled to about 5° C. Sodium periodate (74.4 kg) was added with stirring to the reaction solution in small portions, while maintaining the reaction temperature between 3° C. and 5° C. Once the addition was complete, the reaction was quenched with an aqueous solution of sodium thiosulfate (45 kg) in 38 L of water, and the resulting slurry was granulated for about 20 minutes. The inorganic salts were removed by suction filtration, and the filter cake was washed with ethyl acetate. The combined filtrates were washed with water and allowed to settle. The aqueous layer was extracted with ethyl acetate and the product-rich organic layers were combined and washed with a solution of 8 kg of sodium chloride in 72 L of water. The organic extracts were concentrated by atmospheric distillation at a temperature of about 75° C., cooled to room temperature, and allowed to granulate for 2 to 4 hours. Hexanes (360 L) was added to the cooled (5° C. to 15° C.) slurry and granulation was continued for about 1 hour. The precipitated solids were collected by suction filtration, washed well with ethyl acetate followed by hexanes, and then dried in vacuo at a temperature of about 40° C. to about 45° C. to provide the title compound (42.0 kg, 71% yield) as a white solid.

reactant | N-benzylmaleimide | 50.0 kg | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
reactant | ethyl acetate | 859 L | C(C)(=O)OCC | C4H8O2
reactant | Sodium periodate | 74.4 kg | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 352 L | O | H2O
solvent | acetonitrile | 125 L | C(C)#N | C2H3N
catalyst | ruthenium (III) chloride hydrate | 0.499 kg | O.[Ru](Cl)(Cl)Cl
product | cis-3,4-Dihydroxy-2,5-pyrrolidinedione | 42.0 kg, 71% yield | O[C@@H]1C(NC([C@@H]1O)=O)=O | C4H5NO4
